US05132006
5.3% 2-ethyl-1-hexanol
250.4 g of sodium decanolate (sodium salt of decanol) and 27.7 g of 1-decanol are treated at 200° C. with 113 g of tetraethylene glycol monobutyl ether. A clear solution has formed within 10 minutes. 142 g of high-naphthene neutral oil is added at 140° C., and the mixture is cooled to room temperature with stirring. The mixture which can be poured easily at 25° C. has the composition:

reactant | sodium decanolate | 250.4 g | C(CCCCCCCCC)[O-].[Na+]
reactant | 1-decanol | 27.7 g | C(CCCCCCCCC)O | C10H22O
reactant | tetraethylene glycol monobutyl ether | 113 g | C(CCC)OCCOCCOCCOCCO | C12H26O5
product | 2-ethyl-1-hexanol | C(C)C(CO)CCCC | C8H18O
